US07294629B2
Synthesis of [4-(1,1-dimethyl-2-propynyl)-1-piperazinyl]acetonitrile (4c)
To a suspension (10 mL) of 1-(1,1-dimethyl-2-propynyl)piperazine (350 mg, 2.3 mmol) and potassium carbonate (480 mg, 3.45 mmol) in methyl ethyl ketone (MEK) was added bromoacetonitrile (0.176 mL, 2.53 mmol), and the mixture was stirred at room temperature for 30 min. The reaction mixture was diluted with MEK and filtered. The filtrate was concentrated to give the title compound (0.439 g, quantitative) as a white solid.

reactant | 1-(1,1-dimethyl-2-propynyl)piperazine | 2.3 mmol, 10 mL, 350 mg | CC(C#C)(C)N1CCNCC1 | C9H16N2
reactant | potassium carbonate | 3.45 mmol, 480 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 2.53 mmol, 0.176 mL | BrCC#N | C2H2BrN
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | [4-(1,1-dimethyl-2-propynyl)-1-piperazinyl]acetonitrile | 0.439 g | CC(C#C)(C)N1CCN(CC1)CC#N | C11H17N3
